* 6T SRAM SNM (hold) - configC TID=0 krad

.model nmos_configC_tid0 bsimcmg_va
+ BULKMOD = 1 CGEOMOD = 0 TYPE = 1 GEOMOD = 0
+ GIDLMOD = 1 IGBMOD = 0 IGCMOD = 1 IIMOD = 0
+ NGATE = 0 NQSMOD = 0 RDSMOD = 0 RGATEMOD = 0 RGEOMOD = 0
+ SDTERM = 0 SHMOD = 0
+ AGIDL = 1e-12 AGISL = 1e-12
+ CDSC = 0.01 CDSCD = 0.01
+ CFD = 0.2e-10 CFS = 0.2e-10
+ CGDO = 1e-10 CGSO = 1e-10
+ CTH0 = 0.000001243
+ DELTAVSAT = 0.5 DROUT = 1 DSUB = 0.5
+ DVT0 = 0.05 DVT1 = 0.5 DVTSHIFT = 0
+ EASUB = 4.05 EOTACC = 1e-10 EOTBOX = 1.40e-7
+ EPSRSUB = 11.9
+ ETA0 = 0.05 ETAMOB = 2 EU = 1.2
+ FPITCH = 4e-8 HFIN = 3e-8
+ IGT = 2.5 K1RSCE = 0 KSATIV = 2
+ KT1 = 0 KT1L = 0
+ LINT = -2e-9 LPE0 = 0 LCDSCD = 5e-5 LCDSCDR = 5e-5
+ LRDSW = 0.2 LVSAT = 0
+ MEXP = 4 NBODY = 1e22 NC0SUB = 2.86e25 NI0SUB = 1.1e16 NSD = 2e26
+ PCLM = 0.05 PCLMCV = 0.013 PCLMG = 0
+ PDIBL1 = 0 PDIBL2 = 0.002
+ PHIN = 0.05 POXEDGE = 1.1 PQM = 0.66
+ PRT = 0 PTWG = 0 PTWGT = 0.004 PVAG = 0
+ QM0 = 0.001 QMFACTOR = 2.5
+ RDSW = 200 RDSWMIN = 0 RDWMIN = 0 RSHD = 0 RSHS = 0 RSWMIN = 0
+ RTH0 = 0.225
+ TBGASUB = 4.73e-4 TBGBSUB = 636
+ TFIN = 1.4e-8 TGIDL = -0.007 TMEXP = 0
+ TNOM = 25
+ UA = 0.55 UA1 = 0.001032 UCS = 1 UCSTE = -0.004775
+ UD = 0 UD1 = 0 UP = 0 UTE = -0.7 UTL = 0
+ VSAT = 80000 WR = 1 WTH0 = 2.6e-7 XL = 0
+ PHIG = 4.7035
+ EOT = 1.80e-09
+ TOXP = 8.00e-09
+ EPSROX = 17.3
+ EPSRSP = 17.3
+ U0 = 0.025133

.model pmos_configC bsimcmg_va
+ BULKMOD = 1 CGEOMOD = 0 TYPE = 0 GEOMOD = 0
+ GIDLMOD = 1 IGBMOD = 0 IGCMOD = 1 IIMOD = 0
+ NGATE = 0 NQSMOD = 0 RDSMOD = 0 RGATEMOD = 0 RGEOMOD = 0
+ SDTERM = 0 SHMOD = 0
+ AGIDL = 2e-12 AGISL = 2e-12
+ AIGC = 0.007 AIGD = 0.006 AIGS = 0.006
+ AT = 0.0008234
+ CDSC = 0.003469 CDSCD = 0.001486
+ CFD = 0.2e-10 CFS = 0.2e-10
+ CGDO = 1e-10 CGSO = 1e-10
+ CIT = 0
+ CKAPPAD = 0.6 CKAPPAS = 0.6
+ CTH0 = 1.243e-6
+ DELTAVSAT = 11.56 DELTAW = 0 DELTAWCV = -1e-8
+ DLBIN = 0 DLC = -9.2e-9 DLCIGD = 5e-9 DLCIGS = 5e-9
+ DROUT = 4.97 DSUB = 0.5
+ DVT0 = 0.05006 DVT1 = 0.4 DVTSHIFT = 0
+ EASUB = 4.05 EOTACC = 3e-10 EOTBOX = 1.40e-7
+ EPSRSUB = 11.9
+ ETA0 = 0.03952 ETAMOB = 4 EU = 0.05
+ FPITCH = 4e-8 HFIN = 3e-8
+ IGT = 3.5 K1RSCE = 0 KSATIV = 1.592
+ KT1 = 0.08387 KT1L = 0
+ LINT = -2.5e-9 LPE0 = 0 LCDSCD = 0 LCDSCDR = 0
+ LRDSW = 1.3 LVSAT = 1441
+ MEXP = 2.491 NBODY = 1e22 NC0SUB = 2.86e25 NI0SUB = 1.1e16 NSD = 2e26
+ PCLM = 0.01 PCLMCV = 0.013 PCLMG = 1
+ PDIBL1 = 800 PDIBL2 = 0.005704
+ PHIN = 0.05 POXEDGE = 1.152 PQM = 0.66
+ PRT = 0.002477 PTWG = 6.322 PTWGT = 0.0015 PVAG = 200
+ QM0 = 2.183e-12 QMFACTOR = 0
+ RDSW = 190.6 RDSWMIN = 0 RDWMIN = 0 RSHD = 0 RSHS = 0 RSWMIN = 0
+ RTH0 = 0.15
+ TBGASUB = 4.73e-4 TBGBSUB = 636
+ TFIN = 1.4e-8 TGIDL = -0.01 TMEXP = 0
+ TNOM = 25
+ UA = 1.133 UA1 = 0.00134 UCS = 0.2672 UCSTE = 0
+ UD = 0.0105 UD1 = 0 UP = 0 UTE = 0 UTL = 0.001
+ VSAT = 48390 WR = 1 WTH0 = 2.6e-7 XL = 0
+ PHIG = 5.1335
+ EOT = 1.80e-09
+ TOXP = 8.00e-09
+ EPSROX = 17.3
+ EPSRSP = 17.3
+ U0 = 0.02935


* === Inverter 1 ===
VIN1 in1 0 0
VDD1 vdd1 0 0.9

NPD1 out1 in1 0 0 nmos_configC_tid0
NPU1 out1 in1 vdd1 vdd1 pmos_configC

* === Inverter 2 ===
VIN2 in2 0 0
VDD2 vdd2 0 0.9

NPD2 out2 in2 0 0 nmos_configC_tid0
NPU2 out2 in2 vdd2 vdd2 pmos_configC

.control
set filetype=ascii

dc VIN1 0 0.9 0.002
let vtc1_vin = v(in1)
let vtc1_vout = v(out1)
write /home/rylan/projects/sim-lab/20260427-034614-CNTFET-6T-SRAM-TID-Radiation-Multi-Scale-Simulatio/workspace/ngspice/production/sram-6t-tid/output/configC_TID0_hold_vtc1.txt vtc1_vin vtc1_vout

reset
dc VIN2 0 0.9 0.002
let vtc2_vin = v(in2)
let vtc2_vout = v(out2)
write /home/rylan/projects/sim-lab/20260427-034614-CNTFET-6T-SRAM-TID-Radiation-Multi-Scale-Simulatio/workspace/ngspice/production/sram-6t-tid/output/configC_TID0_hold_vtc2.txt vtc2_vin vtc2_vout

quit
.endc
.end
